US04339453
2,4-Dichloropyrimidine (4.5 g, 0.03 m) in an n-butanol (50 ml)-water (50 ml) mixture is reacted with 3-amino-1-propanol (4.5 g, 0.06 m) following the procedure of Example 1. After stirring at room temperature for 24 hours, water (200 ml) is added, the mixture is extracted with methylene chloride (3×200 ml), the combined organic extracts are washed well with water, dried, and concentrated. Recrystallization of the solid residue from methylene chloride/hexane yields 2.8 g of 2-chloro-4-(3-hydroxypropylamino)pyrimidine, m.p. 113°-114° C.

reactant | 2,4-Dichloropyrimidine | 4.5 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | n-butanol | 50 ml | C(CCC)O | C4H10O
reactant | 3-amino-1-propanol | 4.5 g | NCCCO | C3H9NO
solvent | water | 200 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-chloro-4-(3-hydroxypropylamino)pyrimidine | 2.8 g | ClC1=NC=CC(=N1)NCCCO | C7H10ClN3O
